US07534894B2
A mixture N-[(3′-bromo-4′-hydroxy-1,1′-biphenyl-4-yl)methyl]-2-butyl-N-methyl-1-benzofuran-3-carboxamide (1.60 g, 3.25 mmol), prepared in the previous step, bromoacetonitrile (272 μL, 3.90 mmol) and potassium carbonate (2.25 g, 16.3 mmol) in 25 mL of DMF was stirred under nitrogen at room temperature for 23 h. The reaction was partitioned between ethyl acetate and water. The organic layer was separated, extracted multiple times with water, dried (MgSO4) and the solvent removed under reduced pressure to give N-{[3′-bromo-4′-(cyanomethoxy)-1,1′-biphenyl-4-yl]methyl}-2-butyl-N-methyl-1-benzofuran-3-carboxamide (1.65 g, 95%) as a brown foam, MS (ESI) m/z 531 [M+H]+. Elemental Analysis for C29H27BrN2O3. Calc'd: C, 65.54; H, 5.12; N, 5.27. Found: C, 65.37; H, 5.14; N, 5.21.

reactant | N-[(3′-bromo-4′-hydroxy-1,1′-biphenyl-4-yl)methyl]-2-butyl-N-methyl-1-benzofuran-3-carboxamide | 3.25 mmol, 1.60 g | BrC=1C=C(C=CC1O)C1=CC=C(C=C1)CN(C(=O)C1=C(OC2=C1C=CC=C2)CCCC)C | C27H26BrNO3
reactant | bromoacetonitrile | 3.90 mmol, 272 μL | BrCC#N | C2H2BrN
reactant | potassium carbonate | 16.3 mmol, 2.25 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | N-{[3′-bromo-4′-(cyanomethoxy)-1,1′-biphenyl-4-yl]methyl}-2-butyl-N-methyl-1-benzofuran-3-carboxamide | 1.65 g, 95% | BrC=1C=C(C=CC1OCC#N)C1=CC=C(C=C1)CN(C(=O)C1=C(OC2=C1C=CC=C2)CCCC)C | C29H27BrN2O3
